US06090836
STEP C: Methyl 3-chloro-4-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propylamino)phenylacetate
Using the method in example 17 step D substituting Methyl 3-chloro-4-(3-bromopropylamino)phenylacetate and 3-trifluoromethyl-7-propyl-6-hydroxybenz-[4,5]-isoxazole as the starting materials, the titled compound was obtained.

reactant | Methyl 3-chloro-4-(3-bromopropylamino)phenylacetate | ClC=1C=C(C=CC1NCCCBr)CC(=O)OC | C12H15BrClNO2
reactant | 3-trifluoromethyl-7-propyl-6-hydroxybenz-[4,5]-isoxazole | FC(C1=NOC2=C1C=CC(=C2CCC)O)(F)F | C11H10F3NO2
product | Methyl 3-chloro-4-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propylamino)phenylacetate | ClC=1C=C(C=CC1NCCCOC=1C=CC=2C(=NOC2C1CCC)C(F)(F)F)CC(=O)OC | C23H24ClF3N2O4
